US06809097B1
A solution of 7-benzyloxy-4-chloro-6-methoxyquinoline hydrochloride (6.8 g, 20 mmol) in TFA (80 ml) was heated at reflux for 5.5 hours. The volatiles were removed by evaporation, the residue suspended in water and the mixture was adjusted to pH7 with a saturated aqueous sodium hydrogen carbonate solution. The resulting solid was collected by filtration, washed with water, ether and dried under vacuum to give 4-chloro-7-hydroxy-6-methoxyquinoline (4.1 g, 98%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinoline hydrochloride | 20 mmol, 6.8 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC
solvent | TFA | 80 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-chloro-7-hydroxy-6-methoxyquinoline | 4.1 g, 98% | ClC1=CC=NC2=CC(=C(C=C12)OC)O | C10H8ClNO2
